US05942511
Synthesis of 1-methoxy-4-chlorophthalazine
0.23 g(0.01 mol) of metallic sodium was dissolved in 50 ml of absolute methanol and then 1.99 g(0.01 mol) of 1,4-dichlorophthalazine was added thereto and completely dissolved. The reaction solution was stirred for one hour at room temperature and then treated according to the same manner as Preparation 5 to obtain the title compound as an amorphous white crystal.

reactant | sodium | 0.01 mol, 0.23 g | [Na] | Na
reactant | 1,4-dichlorophthalazine | 0.01 mol, 1.99 g | ClC1=NN=C(C2=CC=CC=C12)Cl | C8H4Cl2N2
reactant | methanol | 50 ml | CO | CH4O
product | 1-methoxy-4-chlorophthalazine | COC1=NN=C(C2=CC=CC=C12)Cl | C9H7ClN2O
